US07626042B2
(2) 5-Bromo-N-[2-chloro-4-(trifluoromethyl)phenyl]-2-[(morpholinocarbonyl)oxy]-benzamide(Compound No. 88)
Using 5-bromo-N-[2-chloro-4-(trifluoromethyl)phenyl]-2-hydroxybenzamide and morpholine-4-carbonyl chloride as the raw materials, the same operation as the Example 71 gave the title compound.

reactant | 5-bromo-N-[2-chloro-4-(trifluoromethyl)phenyl]-2-hydroxybenzamide | BrC=1C=CC(=C(C(=O)NC2=C(C=C(C=C2)C(F)(F)F)Cl)C1)O | C14H8BrClF3NO2
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 5-Bromo-N-[2-chloro-4-(trifluoromethyl)phenyl]-2-[(morpholinocarbonyl)oxy]-benzamide | Yield: 93.5% | BrC=1C=CC(=C(C(=O)NC2=C(C=C(C=C2)C(F)(F)F)Cl)C1)OC(=O)N1CCOCC1 | C19H15BrClF3N2O4
